US08980888B2
<Step 3> Synthesis of 1-methyl-4-(5-methylpyridin-2-yl)-1H-pyrazole-5-carboxylic acid
An aqueous solution (1.3 ml) of sodium hydroxide (50 mg) was added to a methanol (1.3 ml) solution of the methyl 1-methyl-4-(5-methylpyridin-2-yl)-1H-pyrazole-5-carboxylate (100 mg) obtained in (Example 1.1) <Step 2>. The obtained mixture was stirred at 70° C. for 1 hour. Thereafter, 1 N hydrochloric acid was added to the reaction solution to adjust the pH value to pH 5, and the reaction mixture was then extracted with methylene chloride three times. The organic layer was successively washed with water and a saturated saline, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and a mixed solution of diethyl ether and heptane (1:1) was added to the obtained residue to solidify it, so as to obtain the title compound (74 mg) in the form of a white solid.

reactant | sodium hydroxide | 1.3 ml, 50 mg | [OH-].[Na+]
reactant | methyl 1-methyl-4-(5-methylpyridin-2-yl)-1H-pyrazole-5-carboxylate | 100 mg | CN1N=CC(=C1C(=O)OC)C1=NC=C(C=C1)C | C12H13N3O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 1.3 ml | CO | CH4O
product | 1-methyl-4-(5-methylpyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 74 mg | CN1N=CC(=C1C(=O)O)C1=NC=C(C=C1)C | C11H11N3O2
